US06376673B1
1-Metyl-3-methoxyiminomethyl-4-(3,4-dichlorophenyl)piperidine
To a solution of 1-methyl-3-formyl-4-(3,4-dichlorophenyl)piperidine (10 g, 33 mmol) in warm isopropanol (100 mL) was added methoxylamine hydrochloride (3 g, 36 mmol). The reaction was heated at reflux for 30 min. The solvent was evaporated off and the residue made basic (pH=9) using concentrated ammonia. Extraction with ether afforded 8.5 g of crude product. Purification by repeated column chromatography on silica using EtOAc/Et3N (95:5) as eleuent afforded 4 g of the title compound as an oil.

reactant | 1-methyl-3-formyl-4-(3,4-dichlorophenyl)piperidine | 33 mmol, 10 g | CN1CC(C(CC1)C1=CC(=C(C=C1)Cl)Cl)C=O | C13H15Cl2NO
reactant | methoxylamine hydrochloride | 36 mmol, 3 g | Cl.O(C)N
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 1-Metyl-3-methoxyiminomethyl-4-(3,4-dichlorophenyl)piperidine | 4 g | CN1CC(C(CC1)C1=CC(=C(C=C1)Cl)Cl)C=NOC | C14H18Cl2N2O
